US04212757
Di(p-isopropylphenyl) phosphorochloridate
Following the procedure of U.S. Patent No. 3,773,866, 54.0 g (0.4 mole) of 4-isopropylphenol was added to 73.4 g (0.47 moles) of phosphorus oxychloride and 0.6 g of ammonium chloride at 105° C. over a 1.5 hour period. After heating an additional 1.5 hour the temperature was raised to 135° C. and a second 54 g portion of 4-isopropylphenol was added. The mixture was stirred at 168° C. overnight, and purified by fractional distillation. The fraction which distilled at 258° C. (0.5 torr) was identified as 97% pure by glc.

reactant | 4-isopropylphenol | 0.4 mole, 54.0 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | phosphorus oxychloride | 0.47 moles, 73.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium chloride | 0.6 g | [Cl-].[NH4+]
product | Di(p-isopropylphenyl) phosphorochloridate | P(OC1=CC=C(C=C1)C(C)C)(OC1=CC=C(C=C1)C(C)C)(=O)Cl | C18H22ClO3P
